US04772714
1.0 mmol of (1-methoxy-2,2-dimethylethenyl)oxytrimethylsilane was placed in a 20-ml flask, followed by the addition of 3 ml of pyridine as a solvent. 1.3 mmol of benzenediazonium tetrafluoroborate was added to the flask. The obtained mixture was stirred at 0° C. in a nitrogen atmosphere for 2 hours. The reaction mixture was diluted with diethyl ether and washed with 1.5N hydrochloric acid, water and a saturated aqueous solution of common salt successively. The obtained organic phase was dried over magnesium sulfate and distilled under a reduced pressure to remove the solvent. The obtained oily mixture was subjected to silica gel thin-layer chromatography to obtain 0.90 mmol of methyl 2-methyl-2-phenylazopropionate.

reactant | (1-methoxy-2,2-dimethylethenyl)oxytrimethylsilane | 1.0 mmol | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
reactant | benzenediazonium tetrafluoroborate | 1.3 mmol | F[B-](F)(F)F.C1(=CC=CC=C1)[N+]#N
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 2-methyl-2-phenylazopropionate | 0.90 mmol | CC(C(=O)OC)(C)N=NC1=CC=CC=C1 | C11H14N2O2
